US05236952
20.1 g of diethyl (3,4-dimethoxy-5-nitrobenzoyl)malonate are dissolved in 200 ml of methylene chloride, whereupon the solution is cooled to -20° and at this temperature there is added dropwise while stirring within 15 minutes a solution of 68.1 g of boron tribromide in 120 ml of methylene chloride. The mixture is subsequently stirred at room temperature overnight. After cooling to -20°, the mixture is treated with 300 ml of ethanol and stirred at room temperature for 30 minutes. The solvent is distilled in a water-jet vacuum at 40°. The residue is treated with 300 ml of ice-water and methylene chloride. The organic phase is washed with water, dried over sodium sulfate and evaporated. The crude product obtained is chromatographed on a 10-fold amount of silica gel with toluene. After crystallization from methylene chloride/hexane there is obtained ethyl (3,4-dihydroxy-5-nitrobenzoyl)acetate in the form of yellow crystals of m.p. 136°-137°.

reactant | diethyl (3,4-dimethoxy-5-nitrobenzoyl)malonate | 20.1 g | COC=1C=C(C(=O)C(C(=O)OCC)C(=O)OCC)C=C(C1OC)[N+](=O)[O-] | C16H19NO9
reactant | boron tribromide | 68.1 g | B(Br)(Br)Br | BBr3
reactant | ethanol | 300 ml | C(C)O | C2H6O
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 120 ml | C(Cl)Cl | CH2Cl2
product | ethyl (3,4-dihydroxy-5-nitrobenzoyl)acetate | OC=1C=C(C(=O)CC(=O)OCC)C=C(C1O)[N+](=O)[O-] | C11H11NO7
